US08039472B2
Hydrazine (2.2 ml of a 1M solution in THF, 2.2 mmol) is added to a solution of [(S)-5-[4-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-1-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-3,3-dimethyl-pentyl]-carbamic acid tert-butyl ester (0.16 g, 0.28 mmol) in ethanol (5 ml), and the resulting colourless solution is heated at 45° C. overnight. The reaction is allowed to cool to room temperature, and diethyl ether (30 ml) is added and the resulting white suspension cooled at 0° C. for 30 minutes. The white solid is removed by filtration, and the solvent removed in vacuo to yield {(S)-1-Aminomethyl-5-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-3,3-dimethyl-pentyl}-carbamic acid tert-butyl ester as a colourless oil; [M+H]+ 451.

reactant | Hydrazine | NN | H4N2
reactant | [(S)-5-[4-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-1-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-3,3-dimethyl-pentyl]-carbamic acid tert-butyl ester | 0.28 mmol, 0.16 g | C(C)(C)(C)OC(N[C@@H](CC(CCC1=CC=C(C=C1)OC[C@H]1OC(OC1)(C)C)(C)C)CN1C(C2=CC=CC=C2C1=O)=O)=O | C33H44N2O7
reactant | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | {(S)-1-Aminomethyl-5-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-3,3-dimethyl-pentyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC(CCC1=CC=C(C=C1)OC[C@H]1OC(OC1)(C)C)(C)C)CN)=O | C25H42N2O5
